US08071643B2
A solution of [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclohexyl]-carbamic acid tert-butyl ester+(1S,2S,3S) diastereomer (3.0 g, 6.08 mmol) was treated with ethyl iodide according to the method of Example 7 Step A. After work up and chromatography of the reaction mixture (silica, cyclohexane/ethyl acetate=3/1) [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclohexyl]-ethyl-carbamic acid tert-butyl ester+(1S,2S,3S) diastereomer (1.20 g, 38%) was obtained.

reactant | [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclohexyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1[C@H]([C@@H](CCC1)SCC1=C(C=C(C=C1C)C)C)O[Si](C)(C)C(C)(C)C)=O | C27H47NO3SSi
reactant | ethyl iodide | C(C)I | C2H5I
product | [(1R,2R,3R)-2-(tert-butyl-dimethyl-silanyloxy)-3-(2,4,6-trimethyl-benzylsulfanyl)-cyclohexyl]-ethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC)[C@H]1[C@H]([C@@H](CCC1)SCC1=C(C=C(C=C1C)C)C)O[Si](C)(C)C(C)(C)C)=O | C29H51NO3SSi
